US08008298B2
A solution of 3,3-dimethyl-4-oxo-4-[5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-butyronitrile (0.093 g, 0.17 mmol) and 0.3 mL of trifluoroacetic acid in 2 mL of dichloromethane was stirred for 15 h, then concentrated. The resulting residue was redissolved in dichloromethane and washed with a sat. aq. NaHCO3 solution, dried over MgSO4, filtered and concentrated to a residue. Column chromatography (0->100% EtOAc/hexanes) afforded 0.006 g (9%) of 3,3-dimethyl-4-oxo-4-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-butyronitrile as a white solid.

reactant | 3,3-dimethyl-4-oxo-4-[5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-butyronitrile | 0.17 mmol, 0.093 g | CC(CC#N)(C(C1=CN(C2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)[Si](C(C)C)(C(C)C)C(C)C)=O)C | C30H42N4O4Si
reactant | trifluoroacetic acid | 0.3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 3,3-dimethyl-4-oxo-4-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-butyronitrile | 0.006 g, 9% | CC(CC#N)(C(C1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)=O)C | C21H22N4O4
